US04845118
1-Benzyloxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole
1.4 g (5 mmol) of 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole were reacted in analogy to Example 15 with 0.8 ml (5 mmol) of benzyl chloroformate (90-95%). 2.2 g of oily crude product were obtained and were chromatographed on silica gel (35-70μ) with toluene/ethyl acetate (1:5). The product crystallized from diethyl ether. Melting point 102°-104° C.

reactant | 2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 5 mmol, 1.4 g | COC1=CC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | C12H11N3OS2
reactant | benzyl chloroformate | 5 mmol, 0.8 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | 1-Benzyloxycarbonyl-2-(4-methoxy-2-picolylmercapto)-1H-thieno[3,4-d]imidazole | 2.2 g | C(C1=CC=CC=C1)OC(=O)N1C(=NC=2C1=CSC2)SCC2=NC=CC(=C2)OC | C20H17N3O3S2
